US05358950
5 g of 7-n-propyl-5-methyl-2-mercapto-8-(4-nitrobenzyl)-1,2,4-triazolo[1,5-c]pyrimidine, prepared in Example 37, are dissolved in 50 ml of chloroform and 2.2 ml of triethylamine. 1.5 ml of methyl iodide are added and the mixture is stirred at room temperature for 2 hours and then left overnight. The mixture is then washed with dilute sodium hydroxide solution and the organic phase is separated after settling has taken place, dried over magnesium sulphate and evaporated under vacuum to give a residue which crystallise in an ether/pentane mixture to yield 4 g of 7-n-propyl-5-methyl-2-methylmercapto-8-(4-nitrobenzyl)-1,2,4triazolo[1,5-c]pyrimidine in the form of crystals of melting point 130° C.

reactant | 7-n-propyl-5-methyl-2-mercapto-8-(4-nitrobenzyl)-1,2,4-triazolo[1,5-c]pyrimidine | 5 g | C(CC)C1=C(C=2N(C(=N1)C)N=C(N2)S)CC2=CC=C(C=C2)[N+](=O)[O-] | C16H17N5O2S
reactant | methyl iodide | 1.5 ml | CI | CH3I
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 7-n-propyl-5-methyl-2-methylmercapto-8-(4-nitrobenzyl)-1,2,4triazolo[1,5-c]pyrimidine | 4 g | C(CC)C1=C(C=2N(C(=N1)C)N=C(N2)SC)CC2=CC=C(C=C2)[N+](=O)[O-] | C17H19N5O2S
